US08207164B2
b) 1-(5-bromo-2-fluorophenyl)-2,2-difluoropropane-1,3-diol
To a solution of ethyl 3-(5-bromo-2-fluorophenyl)-2,2-difluoro-3-hydroxypropanoate (20.0 g, 61.3 mmol) in MeOH (160 mL), NaBH4 (7.0 g, 184.2 mmol) was added portion wise over a period of 30 min. at 0° C. Stirring was continued for 1 h at 0° C. and reaction was monitored by TLC. Upon complete consumption of the starting material, reaction mass was concentrated under reduced pressure and treated with saturated ammonium chloride solution. The crude reaction mass was dissolved in ethyl acetate and organic layer was washed with brine (15 mL) followed by drying over anhydrous Na2SO4. The organic layer was concentrated under reduced pressure to furnish title compound with sufficient purity. Yield=17 g (97%). TLC (50% ethyl acetate in Hexane): Rf=0.32),

reactant | ethyl 3-(5-bromo-2-fluorophenyl)-2,2-difluoro-3-hydroxypropanoate | 61.3 mmol, 20.0 g | BrC=1C=CC(=C(C1)C(C(C(=O)OCC)(F)F)O)F | C11H10BrF3O3
reactant | NaBH4 | 184.2 mmol, 7.0 g | [BH4-].[Na+]
solvent | MeOH | 160 mL | CO | CH4O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-(5-bromo-2-fluorophenyl)-2,2-difluoropropane-1,3-diol | BrC=1C=CC(=C(C1)C(C(CO)(F)F)O)F | C9H8BrF3O2
